US04952336
Methyl 4-(2-methylaminopropyl)phenylacetate
To 25 mL of methanol 0.59 g of methyl 4-(2-oxopropyl)phenylacetate, prepared above, was added and dissolved. Then with stirring the following were added: 2.0 g-methylamine hydrochloride, 0.3 g sodium cyanoborohydride, and 0.3 mL of triethylamine. After approximately 12 hours an additional 0.1 g of sodium cyanoborohydride was added to the mixture. After 3 hours more, the reaction was diluted with 100 mL of 0.1 M hydrochloric acid, washed with diethylether, and the resulting aqueous phase was basified to a pH of 12 by addition of 5 mL portions of 1 N sodium hydroxide solution. This was extracted three times with 100 mL portions of diethylether, combined extracts washed with brine and dried. The solvents were removed in vacuo to yield 0.44 g of a light yellow oil.

reactant | methanol | 25 mL, 0.59 g | CO | CH4O
reactant | methyl 4-(2-oxopropyl)phenylacetate | O=C(CC1=CC=C(C=C1)CC(=O)OC)C | C12H14O3
reactant | sodium cyanoborohydride | 0.3 g | C(#N)[BH3-].[Na+]
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 0.1 g | C(#N)[BH3-].[Na+]
solvent | hydrochloric acid | 0.1 M, 100 mL | Cl | ClH
product | Methyl 4-(2-methylaminopropyl)phenylacetate | 0.44 g | CNC(CC1=CC=C(C=C1)CC(=O)OC)C | C13H19NO2
